*BZX84C36LT1 MCE 6/20/97
*Ref: Motorola TVS/Zener Databook, Q2/94
*36V 1000mW Si Zener pkg:SOT-23 1,3
.SUBCKT BZX84C36LT1 1 2
*    TERMINALS:  A K
D1 1 2  DF
DZ 3 1  DR
VZ 2 3  35.44
.MODEL DF D (IS=5.02N RS=42M N=1.7 CJO=70P VJ=1 M=0.33 TT=50.1N)
.MODEL DR D (IS=37.8U RS=27 N=4.9)
.ENDS 
* Origin: Mcediode.lib
